US08937083B2
Preparation of 4,4,4-trifluoro-2-methyl-N-(1-(pyridin-3-yl)-1H-pyrazol-4-yl)butanamide (Compound 65)
To a solution of 1-(pyridin-3-yl)-1H-pyrazol-4-amine (0.150 g, 0.93 mmol) in dichloroethane (1.8 ml) was added 4,4,4-trifluoro-2-methylbutanoic acid (0.14 g, 0.93 mmol) and 4-N,N-dimethylaminopyridine (0.23 g, 1.87 mmol) followed by 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.36 g, 1.87 mmol). The reaction stirred at room temperature overnight. The reaction mixture was concentrated and the crude product was purified by silica gel chromatography eluting with 0-5% MeOH/dichloromethane to give a white solid (0.15 g, 55%); mp 140-145° C.; 1H NMR (400 MHz, CDCl3) δ 9.00 (d, J=2.4 Hz, 1H), 8.62-8.47 (m, 2H), 8.01 (ddd, J=8.3, 2.7, 1.5 Hz, 1H), 7.68 (s, 1H), 7.53 (bs, 1H), 7.40 (ddd, J=8.3, 4.8, 0.6 Hz, 1H), 2.92-2.61 (m, 2H), 2.32-2.05 (m, 1H), 1.38 (d, J=6.6 Hz, 3H); ESIMS m/z 300 ([M+2]).

reactant | 1-(pyridin-3-yl)-1H-pyrazol-4-amine | 0.93 mmol, 0.150 g | N1=CC(=CC=C1)N1N=CC(=C1)N | C8H8N4
reactant | 4,4,4-trifluoro-2-methylbutanoic acid | 0.93 mmol, 0.14 g | FC(CC(C(=O)O)C)(F)F | C5H7F3O2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.87 mmol, 0.36 g | Cl.CN(CCCN=C=NCC)C
solvent | dichloroethane | 1.8 ml | ClC(C)Cl | C2H4Cl2
product | 4,4,4-trifluoro-2-methyl-N-(1-(pyridin-3-yl)-1H-pyrazol-4-yl)butanamide | 0.15 g, 55% | FC(CC(C(=O)NC=1C=NN(C1)C=1C=NC=CC1)C)(F)F | C13H13F3N4O
